* C:\Users\Harshdeep\OneDrive\Desktop\jk\Analog Lab\2021EEB1286\22nm\BetaMultiplier&CurrentMirror.asc
V1 VDD 0 0.8
M5 Vbias3 Vbias3 0 0 NMOS l=990n w=22n
M6 Vbias4 Vbias3 N004 N004 NMOS l=44n w=540n
M7 N004 Vbias4 0 0 NMOS l=44n w=270n
M8 Vbias2 Vbias3 N005 N005 NMOS l=44n w=55n
M9 N005 Vbias4 0 0 NMOS l=44n w=660n
M10 Vbias1 Vbias3 N006 N006 NMOS l=22n w=88n
M11 N006 Vbias4 0 0 NMOS l=44n w=1503.25n
M12 VDD Vbiasp Vbias3 VDD PMOS l=22n w=778n
M13 VDD Vbiasp Vbias4 VDD PMOS l=44n w=440n
M14 VDD Vbias2 Vbias2 VDD PMOS l=536.41n w=44n
M16 VDD Vbias1 N001 VDD PMOS l=44n w=58.0856n
M17 VDD N003 N003 VDD PMOS l=44n w=22n
M18 VDD Vbiasp N008 VDD NMOS l=22n w=264n
M19 VDD N002 N002 VDD PMOS l=22n w=264n
M20 VDD N002 Vbiasp VDD PMOS l=22n w=264n
M21 VDD Vbiasp N007 VDD PMOS l=22n w=264n
M22 VDD Vbiasp VDD VDD PMOS l=22n w=22n
M23 N003 N008 0 0 NMOS l=22n w=110n
M24 Vbiasp N003 N008 N008 NMOS l=22n w=44n
M25 N008 N008 0 0 NMOS l=22n w=110n
M26 N002 N007 0 0 NMOS l=22n w=110n
M27 Vbiasp N008 0 0 NMOS l=22n w=110n
M28 N007 N007 N009 N009 NMOS l=22n w=110n
R1 N009 0 5.5k
M1 N001 Vbias2 Vbias1 N001 PMOS l=22n w=44n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Harshdeep\AppData\Local\LTspice\lib\cmp\standard.mos
.inc 22nm.txt
.tran 1m
.backanno
.end
